US04977184
(kk) by using 3,5-dicyanobenzylidenetriphenylphosphorane prepared in situ by means of 3,5-dicyanobenzyltriphenylphosphonium bromide and sodium bis(trimethylsilyl)amide there is obtained 5-[(Z)-2-(1R,4S,5S,8R)-4,8-dimethyl-7-oxo-2,3-dioxabicyclo[3.3.1]nonan-4-yl]vinyl]isophthalonitrile [m.p. 185°]:

reactant | 3,5-dicyanobenzylidenetriphenylphosphorane | C(#N)C=1C=C(C=P(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C#N | C27H19N2P
reactant | 3,5-dicyanobenzyltriphenylphosphonium bromide | [Br-].C(#N)C=1C=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C(C1)C#N
reactant | sodium bis(trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
product | isophthalonitrile | C(C1=CC(C#N)=CC=C1)#N | C8H4N2
